US09388189B2
b) 4-Amino-6-chloro-N-(3-fluoro-4-methoxyphenyl)pyrimidine-5-carboxamide
4,6-Dichloro-N-(3-fluoro-4-methoxyphenyl)pyrimidine-5-carboxamide (720 mg, 2.28 mmol) was dissolved in dioxane (10 ml) and cooled in an ice bath. Ammonia solution (1.63 mL, 7N in MeOH) was added dropwise and the mixture was stirred at 0° C. for 6 h and overnight at room temperature. After evaporation of the solvent under reduced pressure, the residue (675 mg, 100%) was used in the next synthetic step without further purification.

reactant | 4,6-Dichloro-N-(3-fluoro-4-methoxyphenyl)pyrimidine-5-carboxamide | 2.28 mmol, 720 mg | ClC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)OC)F)Cl | C12H8Cl2FN3O2
reactant | Ammonia | 7N, 1.63 mL | N | H3N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6-chloro-N-(3-fluoro-4-methoxyphenyl)pyrimidine-5-carboxamide | NC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)OC)F)Cl | C12H10ClFN4O2
